datasets/RMG-dataset.csv
rxn,Ea
[O:0][H:1].[c:2]1([H:14])[c:3]([H:15])[c:4]([H:16])[c:5](-[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]2[H:21])[c:12]([H:22])[c:13]1[H:23]>>[O:0]([H:1])[H:21].[c:2]1([H:14])[c:3]([H:15])[c:4]([H:16])[c:5](-[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]2)[c:12]([H:22])[c:13]1[H:23],6.091904
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24](=[C:25]([H:27])[H:28])[H:26]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:18])[C:24](=[C:25]([H:27])[H:28])[H:26])[H:14])([H:12])[H:13],1.17152
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](#[C:15][C:16]([C:17]([H:20])([H:21])[H:22])[C:18]([H:23])([H:24])[H:25])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:16]([C:15]#[C:14][H:19])([C:17]([H:20])([H:21])[H:22])[C:18]([H:23])([H:24])[H:25])[H:6],42.5513
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([H:20])([H:21])[H:22]>>[C:0]1([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:7][C:19]([H:20])([H:21])[H:22],55.1451
[C:5]([H:6])([H:7])[H:8].[O:0]([C:1](=[S:2])[H:4])[H:3]>>[O:0]([C:1]([S:2])([H:4])[C:5]([H:6])([H:7])[H:8])[H:3],22.9702
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[C:11]([H:12])([H:13])[H:14]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[C:11]([H:12])([H:13])[H:14])([H:5])[H:6],31.9239
[N:0]([H:1])[H:2].[O:3][O:4]>>[N:0]([H:1])([H:2])[O:3][O:4],6.81992
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[O:3][H:9])([H:4])[H:5].[H:10]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[O:3]([H:9])[H:10],113.405
[C:0]1([H:16])=[C:1]([H:17])[c:2]2[c:3]([H:18])[c:4]3[c:5]([H:19])[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]3[c:10]3[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]1[c:15]23.[H:26]>>[C:0]1([H:16])=[C:1]([H:17])[c:2]2[c:3]([H:18])[c:4]3[c:5]([H:19])[c:6][c:7]([H:21])[c:8]([H:22])[c:9]3[c:10]3[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]1[c:15]23.[H:20][H:26],71.529664
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:17]([H:18])([H:19])[H:20])[H:9])([H:7])[H:8],11.2131
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:22])[H:23])[H:21])=[C:11]([c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])[H:24])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:18])[H:19])[H:20])([C:9](=[C:10]([H:22])[H:23])[H:21])[C:11]([c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])[H:24])[H:3],44.1412
[C:0]1([H:7])=[C:1]([H:8])[C:2]2[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[C:5]2([H:13])[C:6]1([H:14])[H:15]>>[C:0](=[C:1]([C:2]1=[C:5]([H:13])[C:4]([H:11])([H:12])[C:3]1([H:9])[H:10])[H:8])([C:6]([H:14])[H:15])[H:7],166.9416
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])([H:10])([H:11])[H:12]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:7]([C:6]([H:10])([H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18],0.87864
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([H:8])([H:9])[H:10]>>[C:0]([C:1]([S:2])([H:6])[C:7]([H:8])([H:9])[H:10])([H:3])([H:4])[H:5],16.736
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10]#[C:11][C:12]([H:16])([H:17])[H:18])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:13])([H:14])[H:15])=[C:11][C:12]([H:16])([H:17])[H:18])[H:4],52.2163
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][H:14]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])[H:9])([H:5])([H:6])[H:7].[H:8][O:13][H:14],-12.752832
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[H:13])[C:5]([C:6](=[C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[H:21])[H:20])[H:19])([H:17])[H:18])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1[C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[C:8]([C:9]([H:22])([H:23])[H:24])([H:21])[C:7]([H:20])=[C:6]([H:19])[C:5]1([H:17])[H:18])[H:12])([H:10])[H:11],87.4038
[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11].[S:0]=[C:1]([C:2]([S:3][H:7])([H:5])[H:6])[H:4]>>[H:5][C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11].[S:0]=[C:1]([C:2]([S:3][H:7])[H:6])[H:4],5.0208
